US07001967B2
In a one-liter autoclave were charged 400 ml of toluene as a polymerization solvent, 0.001 moles of perbutyl neodecanoate as a polymerization initiator, 0.42 moles of N-(2-methylphenyl)maleimide, and 4.05 moles of isobutene, and the mixture was subjected to polymerization reaction under a polymerization condition at a polymerization temperature of 60° C. for a polymerization time of 5 hours, to obtain N-(2-methylphenyl)maleimide-isobutene alternating copolymer. The thus obtained N-(2-methylphenyl)maleimide-isobutene alternating copolymer had a weight average molecular weight (Mw) (as reduced into standard polystyrene) of 160,000 and a molecular weight distribution (Mw/Mn), which is expressed by [(weight average molecular weight (Mw))/(number average molecular weight (Mn))], of 2.7.

reactant | neodecanoate | 0.001 moles | C(CCCCCC(C)(C)C)(=O)[O-]
reactant | N-(2-methylphenyl)maleimide | 0.42 moles | CC1=C(C=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
reactant | isobutene | 4.05 moles | C=C(C)C | C4H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-methylphenyl)maleimide isobutene | CC1=C(C=CC=C1)N1C(C=CC1=O)=O.C=C(C)C | InChI=1S/C11H9NO2.C4H8/c1-8-4-2-3-5-9(8)12-10(13)6-7-11(12)14;1-4(2)3/h2-7H,1H3;1H2,2-3H3
